US04735959
4-[(1-(5-Bromo-2-piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid
A solution of 0.072 gm (1.05 m mol) of sodium nitrite in 0.5 ml of water was added dropwise at an internal temperature of 0° to 5° C. to 0.40 gm (1.05 m mol) of 4-[(1-(5-amino-2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid in 2 ml of semi-concentrated aqueous hydrobromic acid. The thus obtained diazonium salt solution was then added dropwise to 0.196 gm of copper-(I) bromide in 2 ml of 48% hydrobromic acid, whereby strong formation of gas occurred. The reaction mixture was stirred for 1.5 hours at an internal temperature of 45° to 50° C., cooled, and adjusted to pH 4 by means of 4N sodium hydroxide solution. After extraction with warm ethyl acetate, the extract was washed with water, dried, and filtered. After evaporation in vacuo, the residue obtained was purified by column chromatography on silica gel (chloroform/methanol=7:1).

reactant | sodium nitrite | 0.072 gm | N(=O)[O-].[Na+]
reactant | 4-[(1-(5-amino-2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid | 0.40 gm | NC=1C=CC(=C(C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N)N1CCCCC1 | C22H27N3O3
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | hydrobromic acid | 2 ml | Br | BrH
reactant | hydrobromic acid | 2 ml | Br | BrH
solvent | water | 0.5 ml | O | H2O
catalyst | copper-(I) bromide | 0.196 gm | [Cu]Br
product | 4-[(1-(5-Bromo-2-piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid | BrC=1C=CC(=C(C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N)N1CCCCC1 | C22H25BrN2O3
